US08470841B2
{3-[4-(6-Isopropoxypyridin-3-yloxy)phenyl]-1-methylpropyl}urea
3-[4-(6-Isopropoxypyridin-3-yloxy)phenyl]-1-methylpropylamine (115 mg, 0.38 mmol) was reacted with formic acid and 1,1′-carbonyldiimidazole in analogy to example 44. Yield: 5 mg (4%), M+H+: 344.19.

reactant | 3-[4-(6-Isopropoxypyridin-3-yloxy)phenyl]-1-methylpropylamine | 0.38 mmol, 115 mg | C(C)(C)OC1=CC=C(C=N1)OC1=CC=C(C=C1)CCC(C)N | C18H24N2O2
reactant | 1,1′-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | formic acid | C(=O)O | CH2O2
product | {3-[4-(6-Isopropoxypyridin-3-yloxy)phenyl]-1-methylpropyl}urea | C(C)(C)OC1=CC=C(C=N1)OC1=CC=C(C=C1)CCC(C)NC(=O)N | C19H25N3O3
